US06395734B1
A mixture of 1,3-dihydroindol-2-one (133 mg, 1.0 mmol), 3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrole-2-carboxaldehyde (250 mg, 1.0 mmol) and 3 drops pyrrolidine in 2.0 ml of ethanol was refluxed at 90° C. for 4 hours and then cooled to room temperature. The precipitate was filtered, washed with cold ethanol and hexane, and dried in a vacuum oven overnight to give 308.9 mg (85%) of 3-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-1,3-dihydroindol-2-one as a yellow solid:

reactant | 1,3-dihydroindol-2-one | 1.0 mmol, 133 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrole-2-carboxaldehyde | 1.0 mmol, 250 mg | CC1=C(NC(=C1CCCN1CCOCC1)C)C=O | C14H22N2O2
catalyst | pyrrolidine | 3 drops | N1CCCC1 | C4H9N
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 3-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-1,3-dihydroindol-2-one | 308.9 mg, 85% | CC1=C(NC(=C1CCCN1CCOCC1)C)C=C1C(NC2=CC=CC=C12)=O | C22H27N3O2
